US07060827B2
In like manner to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, the reaction of 2-chloro-N4-(4-ethoxyphenyl)-5-fluoro-4-pyrimidineamine with 3,4-ethylenedioxyaniline gave N4-(4-ethoxyphenyl)-N2-(3,4-ethylenedioxyphenyl)-5-fluoro-2,4-pyrimidinediamine. 1H NMR (CDCl3): δ 7.87 (d, 1H, J=3 Hz), 7.47 (dd, 2H, J=2.4 and 5.1 Hz), 7.18 (d, 1H, J=2.4 Hz), 6.91–6.85 (m, 3H), 6.79–6.73 (m, 2H), 6.64 (bs, 1H), 4.25 (bs, 4H), 4.05 (q, 2H, J=6.9 Hz), 1.43 (t, 3H, J=7.2 Hz); 19F NMR (CDCl3): −47467; LCMS: ret. time: 24.32 min.; purity: 90%; MS (m/e): 383 (MH+).

reactant | 2-chloro-N4-(4-ethoxyphenyl)-5-fluoro-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC=C(C=C1)OCC)F | C12H11ClFN3O
reactant | 3,4-ethylenedioxyaniline | C1OC=2C=C(N)C=CC2OC1 | C8H9NO2
product | N4-(4-ethoxyphenyl)-N2-(3,4-ethylenedioxyphenyl)-5-fluoro-2,4-pyrimidinediamine | C(C)OC1=CC=C(C=C1)NC1=NC(=NC=C1F)NC1=CC2=C(C=C1)OCCO2 | C20H19FN4O3
